US09227978B2
(S)-tert-Butyl 3-(4-(2-((4-chloro-5-ethyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of (S)-tert-butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate (400 mg, 0.75 mmol), PdCl2(dppf) (95 mg, 0.13 mmol) in THF (20 mL) at RT, Et2Zn (2.86 mL, 2.86 mmol, 1.0 M in hexane) was added. The resulting mixture was stirred under argon at 80° C. for 4 h and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (methanol/dichloroethane=1:80) to afford the desired product (250 mg, 69% yield). ESI-MS m/z: 481.2[M+H]+.

reactant | (S)-tert-butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 0.75 mmol, 400 mg | BrC=1C(=CC(=C(C1)N[C@H](C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC)Cl | C22H32BrClN4O4
reactant | Et2Zn | 2.86 mmol, 1.0 M, 2.86 mL | [Zn](CC)CC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.13 mmol, 95 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-tert-Butyl 3-(4-(2-((4-chloro-5-ethyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 250 mg, 69% yield | ClC1=CC(=C(C=C1CC)N[C@H](C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC | C24H37ClN4O4
